US04503061
4-(Dimethylamino)-3-[4-(4-phenyl-1-piperidinyl)-phenyl]-3-buten-2-one
A mixture of 4.0 g of 1-[4-(4-phenyl-1-piperidinyl)phenyl]-2-propanone and 16 ml of dimethylformamide dimethylacetal is stirred at room temperature overnight, followed by heating at 45°-60° C. for six hours. The solvent is evaporated and the residue triturated with two 100 ml portions of hexane. The solid is filtered and dried to give 3.5 g of orange powder, mp 93°-100° C. Upon standing overnight at 0° C., the filtrate gave an additional 0.7 g of the product, mp 103.5°-105° C. This material is used directly for the next step without further purification.

reactant | 1-[4-(4-phenyl-1-piperidinyl)phenyl]-2-propanone | 4.0 g | C1(=CC=CC=C1)C1CCN(CC1)C1=CC=C(C=C1)CC(C)=O | C20H23NO
reactant | dimethylformamide dimethylacetal | 16 ml | COC(N(C)C)OC | C5H13NO2
product | 4-(Dimethylamino)-3-[4-(4-phenyl-1-piperidinyl)-phenyl]-3-buten-2-one | 3.5 g | CN(C=C(C(C)=O)C1=CC=C(C=C1)N1CCC(CC1)C1=CC=CC=C1)C | C23H28N2O
